### PR TITLE
[Merged by Bors] - feat(AlgebraicGeometry/Birational): Birationality and rationality of schemes

### PR DESCRIPTION
**Pull request by justus-springer**
This is a first step (of hopefully many) towards some basic birational geometry. This PR adds `Birational/Birational.lean`, which defines predicates `Birational`, `BirationalOver` and `IsRationalOver` for arbitrary schemes and provides basic API (e.g. that they are equivalence relations, and that affine space is rational).

Some notes on the choice of definitions: There are multiple ways to define what it means for
two schemes to be birational to each other. A common one is: "There exists a
rational map with a rational inverse". However, this would require defining composition of
rational maps, which is not always defined (In order to compose `f : X ⤏ Y` with `g : Y ⤏ Z`, you
need at least `X` preirreducible, `Y` nonempty and `f` dominant). On the other hand, I can define
"There exist dense subsets `U : Opens X` and `V : Opens Y` such that `U ≅ V` as schemes" for
any two schemes `X` and `Y`, with no conditions. Hence I chose that as a definition. I'm also
working on defining composition of rational maps (#39445), and once that's done, there should be a theorem
connecting the two definitions.

- [x] depends on: #39316

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 1]
```diff
@@ -0,0 +1,293 @@
...
+lemma BirationalOver.trans {S X Y Z : Scheme.{u}} [X.Over S] [Y.Over S] [Z.Over S]
+    (h₁ : BirationalOver S X Y) (h₂ : BirationalOver S Y Z) :
+    BirationalOver S X Z :=
+  ⟨h₁.partialIso.trans h₂.partialIso, inferInstance⟩
+
+/-- `X` is rational over `S` (or `S`-rational) if it is birational over `S` to some
+affine space `𝔸(n; S)`. -/
+@[mk_iff]
+class IsRationalOver (S X : Scheme.{u}) [X.Over S] : Prop where
+  exists_birationalOver_affineSpace' : ∃ (n : Type), BirationalOver S X 𝔸(n; S)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]: How about this?
```suggestion
  exists_birationalOver_affineSpace' : ∃ (n : Type u), BirationalOver S X 𝔸(n; S)
```
`Type u` is usually the largest universe we need (because the underlying type of `S` is in `Type u`). We should provide API for putting any `n` there with `Small.{u} n`.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 2]
```diff
@@ -0,0 +1,293 @@
...
+of `X` and `Y`. -/
+structure PartialIso (X Y : Scheme.{u}) where
+  /-- The source open subscheme of a partial isomorphism. -/
+  source : X.Opens
+  dense_source : Dense (source : Set X)
+  /-- The target open subscheme of a partial isomorphism. -/
+  target : Y.Opens
+  dense_target : Dense (target : Set Y)
+  /-- The underlying isomorphism of a partial isomorphism. -/
+  iso : source.toScheme ≅ target.toScheme
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: I think it would useful to allow for abstract open immersions here instead of open sets (e.g. if you want to make `source` def-eq to `Spec R` for some `R`).

Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: I think we need to add compatibility conditions with the inclusions into `X` and `Y` here.

**Review by chrisflav — COMMENTED** [review]
Thanks for working on this! Looking forward to a lot more birational geometry in mathlib! Some initial comments, I have not looked at the rest of the code closely yet because it depends on these comments.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 2 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: That would be nice, I'll look into it. Do you think `PartialMap` should also be refactored to allow for this?

Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: What condition exactly? The map is not defined outside of `source`.

**Review by erdOne — COMMENTED** [review]
Not a detailed review but some design questions worth thinking about (even if not addressed in this PR)
1. Should you be working with `PartialMap` or `RationalMap`? In particular is`ext_iff` right? Or do you only want equality on a dense subset?
2. Do we still want to work with `OverClass` (I hate it now and I presume @chrisflav agrees)? 
3. How will this mesh with "birational morphisms"? Do we want an `IsBirational` predicate on rational maps also? (and then `IsBirational f.toRationalMap`)
4. How far are we from rational <=> function field is rational? I would hope we can do this in this very PR or a follow up?

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 1 above)
Comment (erdOne) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean]: We should redefine `AffineSpace` to only allow `Type u` or else that file is slow as hell. We can always ulift anyways.

**Comment by justus-springer** [comment]
Thank you both for the comments! @erdOne, here are my thoughts to your points.
Also note that I'm working on composition of rational maps and birational maps
on [this branch](https://github.com/justus-springer/mathlib4/tree/justus/cremona).

1) `PartialIso` is a two-sided version of `PartialMap` (no quotient yet), so the
ext-lemma is analogous to the one from `PartialMap`. One could define an
equivalence relation on `PartialIso` similar to the one on `PartialMap` and the
resulting quotient would be a possible definition of `BirationalMap`. However, I
(currently) think a better definition of `BirationalMap` would be: "A dominant
rational map admitting an inverse". That definition requires composition of
rational maps though, which I'm going to PR soon. For the purposes of defining
when two schemes are "birational" as I'm doing in this PR (which just claims the
existence of a birational map), there is no need to pass to the quotient.

2) I don't have a preference, but I would believe you if you think `OverClass`
causes more pain down the road. Just to be clear, the alternative would be to
take in the structure morphisms as arguments explicitly? E.g. `BirationalOver`
would take in `sX : X ⟶ S` and `sY : Y ⟶ S`? I can certainly try out how that
goes. It seems to me the file `RationalMap.lean` is currently inconsistent with
this, e.g. we have both `RationalMap.equivFunctionField` and
`RationalMap.equivFunctionFieldOver`, which have basically the same content.

Edit: I replaced uses of `OverClass` by explicitly taking the morphisms. 
I think this makes it better (also removed the need for 
`isDefeq.respectTransparency` in these instances).

3) This is basically the same question of whether we want to use `IsIso f` or
`Iso` in category theory. I'm not sure we need both `IsBirational` and
`BirationalMap`, but we'll see. A further complication is that there is also a
more general predicate "is birational" on *morphisms* of schemes, see
[stacks#01RO](https://stacks.math.columbia.edu/tag/01RO). It's more general because it works on schemes with finitely many
irreducible components, not just on irreducible schemes.

4) A more general statement would be: Two schemes `X,Y` over a field `K` are
`Spec(K)`-birational iff their function fields are isomorphic as
`K`-algebras. I.e. birational maps between `X` and `Y` correspond to
`K`-algebra isomorphisms between their function fields. So this is the
"bi"-version of `RationalMap.equivFunctionField`, which I'm definitely trying to
do once birational maps are defined.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 2 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: I played around with that idea, and while like the concept, it does complicate the proofs. `PartialIso` makes use of the lattice structure on `Opens X` (as does the existing `PartialMap`) and replacing that by e.g. pullbacks everywhere makes `trans'`, `restrictSource` and `restrictTarget` somewhat annoying to state. We also don't gain any mathematical generality by replacing dense opens with dominant open immersions, and the API for `Dense` seems richer than the one for `IsDominant`.

I see your point though, that it might be useful to construct a partial iso by providing an open dominant immersion `Spec R -> X`. In that case, what one could do instead is adding `PartialIso.compIso` (analogous to the existing `PartialMap.compHom`) to compose any partial iso with an iso of schemes. Applying this to `Hom.isoImage` should then give you what you want without much trouble.

Edit: Actually, I think shouldn't be a need for a `compIso`, since there is already `Iso.toPartialIso` and `PartialIso.trans`.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 1 above)
Comment (justus-springer) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean]: I've changed `n` to `Type u`.

> We should provide API for putting any `n` there with `Small.{u} n`

I think this isn't possible with how `AffineSpace` is defined currently, as the universe of `n` can't be larger than the universe of `S`. Or maybe I'm lacking universe expertise. Can this wait until we decide what to do with `AffineSpace` (and possibly redefine it as Andrew suggests)?

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 3]
```diff
@@ -0,0 +1,299 @@
...
+  iso := f.iso ≪≫ Y.isoOfEq e ≪≫ g.iso
+
+lemma trans'_over (f : X.PartialIso Y) (g : Y.PartialIso Z) (e : f.target = g.source)
+    (hf : f.iso.hom ≫ f.target.ι ≫ sY = f.source.ι ≫ sX)
+    (hg : g.iso.hom ≫ g.target.ι ≫ sZ = g.source.ι ≫ sY) :
+    (trans' f g e).iso.hom ≫ (trans' f g e).target.ι ≫ sZ = (trans' f g e).source.ι ≫ sX := by
+  simp [← hf, hg]
+
+/-- Restrict the source of a partial isomorphism to a smaller dense open. -/
+@[simps source target iso]
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
@[simps]
```
should do the same here

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 4]
```diff
@@ -0,0 +1,299 @@
...
+  domain := f.source
+  dense_domain := f.dense_source
+  hom := f.iso.hom ≫ f.target.ι
+
+/-- The underlying rational map of a partial isomorphism. -/
+abbrev toRationalMap (f : X.PartialIso Y) : X ⤏ Y := f.toPartialMap.toRationalMap
+
+/-- A scheme isomorphism viewed as a partial isomorphism defined on all of `X` and `Y`. -/
+@[simps]
+noncomputable def _root_.CategoryTheory.Iso.toPartialIso (f : X ≅ Y) : X.PartialIso Y where
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]: `Iso.toPartialIso` is a bit too generic of a name I think. How about?
```suggestion
/-- A scheme isomorphism viewed as a partial isomorphism defined on all of `X` and `Y`. -/
@[simps]
noncomputable def ofIso (f : X ≅ Y) : X.PartialIso Y where
```
Then you can still use anonymous dot notation.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 5]
```diff
@@ -0,0 +1,299 @@
...
+
+end DenseOpen
+
+section OpenImmersion
+
+variable {X U S : Scheme.{u}}
+
+/-- A dominant open immersion `f : U ⟶ X` induced a partial isomorphism between `U` and `X`. -/
+@[simps! source target iso]
+noncomputable def Hom.partialIso (f : U ⟶ X) [IsOpenImmersion f] [IsDominant f] :=
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
noncomputable def Hom.partialIso (f : U ⟶ X) [IsOpenImmersion f] [IsDominant f] : U.PartialIso X :=
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 6]
```diff
@@ -0,0 +1,299 @@
...
+
+@[expose] public section
+
+universe u
+
+open CategoryTheory
+
+namespace AlgebraicGeometry
+
+namespace Scheme
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
namespace AlgebraicGeometry.Scheme
```
(same below)

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: Sorry, I should have thought before writing this comment.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 7]
```diff
@@ -0,0 +1,299 @@
...
+  source := ⊤
+  dense_source := dense_univ
+  target := ⊤
+  dense_target := dense_univ
+  iso := X.topIso ≪≫ f ≪≫ Y.topIso.symm
+
+end PartialIso
+
+/-- `X` and `Y` are birational if there exists a partial isomorphism between them. -/
+def Birational (X Y : Scheme.{u}) : Prop := Nonempty (PartialIso X Y)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean:181]:
```suggestion
@[stacks 0A20 "(1)"]
def Birational (X Y : Scheme.{u}) : Prop := Nonempty (PartialIso X Y)
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 8]
```diff
@@ -0,0 +1,299 @@
...
+  obtain ⟨n, hn⟩ := exists_birationalOver_affineSpace sX
+  exact ⟨n, (U.birationalOver_of_dense sX hU).trans hn⟩
+
+end DenseOpen
+
+section OpenImmersion
+
+variable {X U S : Scheme.{u}}
+
+/-- A dominant open immersion `f : U ⟶ X` induced a partial isomorphism between `U` and `X`. -/
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
/-- A dominant open immersion `f : U ⟶ X` induces a partial isomorphism between `U` and `X`. -/
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 9]
```diff
@@ -0,0 +1,299 @@
...
+    (h₁ : BirationalOver sX sY) (h₂ : BirationalOver sY sZ) :
+    BirationalOver sX sZ :=
+  ⟨h₁.partialIso.trans h₂.partialIso,
+    PartialIso.trans_over _ _ h₁.partialIso_isOver h₂.partialIso_isOver⟩
+
+/-- `X` is rational over `S` (or `S`-rational) if it is birational over `S` to some
+affine space `𝔸(n; S)`. -/
+@[mk_iff]
+class IsRationalOver {S X : Scheme.{u}} (sX : X ⟶ S) : Prop where
+  exists_birationalOver_affineSpace' : ∃ (n : Type u), BirationalOver sX (𝔸(n; S) ↘ S)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
  exists_birationalOver_affineSpace (sX) : ∃ (n : Type u), BirationalOver sX (𝔸(n; S) ↘ S)
```
Now this has the same signature as `exists_birationalOver_affineSpace` below. If you still want the lemma outside of the `IsRationalOver` namespace, you can use `export IsRationalOver (exists_birationalOver_affineSpace)`.

**Comment by chrisflav** [comment]
I think we should definitely have a `IsBirational` predicate on `RationalMap` and it could e.g. be expressed as "there exists a `PartialIso` representing it". But this can come in a future PR.

Having `PartialIso` as is without the quotient makes sense to me. As you say, for composition of rational maps to be well-defined you need additional assumptions on the schemes.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean]: I have opened #39970 to get rid of the `Type max u v` in `AffineSpace`.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/AlgebraicGeometry/Birational/Birational.lean:47]: This is convincing, let's keep it like this.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 10]
```diff
@@ -0,0 +1,299 @@
...
+/-- The inverse of a partial isomorphism. -/
+@[symm, simps]
+def symm (f : X.PartialIso Y) : Y.PartialIso X where
+  source := f.target
+  dense_source := f.dense_target
+  target := f.source
+  dense_target := f.dense_source
+  iso := f.iso.symm
+
+lemma symm_over (f : X.PartialIso Y) (hf : f.iso.hom ≫ f.target.ι ≫ sY = f.source.ι ≫ sX) :
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]: All the `_over` names don't follow the (syntactic) naming convention and also seem a bit cumbersome. While I agree with Andrew about `OverClass`, we could still have an `abbrev PartialIso.IsOver f sX sY := f.iso.hom ≫ f.target.ι ≫ sY = f.source.ι ≫ sX` and state the lemmas in terms of that.

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 11]
```diff
@@ -0,0 +1,293 @@
...
+@[symm, simps]
+def symm (f : X.PartialIso Y) : Y.PartialIso X where
+  source := f.target
+  dense_source := f.dense_target
+  target := f.source
+  dense_target := f.dense_source
+  iso := f.iso.symm
+
+set_option backward.defeqAttrib.useBackward true in
+lemma symm_over (f : X.PartialIso Y) (hf : f.IsOver sX sY) : f.symm.IsOver sY sX := by
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
lemma IsOver.symm {f : X.PartialIso Y} (hf : f.IsOver sX sY) : f.symm.IsOver sY sX := by
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 12]
```diff
@@ -0,0 +1,293 @@
...
+noncomputable def trans' (f : X.PartialIso Y) (g : Y.PartialIso Z) (e : f.target = g.source) :
+    X.PartialIso Z where
+  source := f.source
+  dense_source := f.dense_source
+  target := g.target
+  dense_target := g.dense_target
+  iso := f.iso ≪≫ Y.isoOfEq e ≪≫ g.iso
+
+set_option backward.defeqAttrib.useBackward true in
+lemma trans'_over (f : X.PartialIso Y) (g : Y.PartialIso Z) (e : f.target = g.source)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
lemma IsOver.trans' {f : X.PartialIso Y} {g : Y.PartialIso Z} {e : f.target = g.source}
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 13]
```diff
@@ -0,0 +1,293 @@
...
+    (f.restrictTarget U hU hU').IsOver sX sY :=
+  symm_over _ (restrictSource_over _ (symm_over f hf) U hU hU')
+
+/-- Compose two partial isomorphisms, restricting to the intersection of the intermediate opens. -/
+@[trans, simps! source target iso]
+noncomputable def trans (f : X.PartialIso Y) (g : Y.PartialIso Z) : X.PartialIso Z :=
+  have := f.dense_target.inter_of_isOpen_right g.dense_source g.source.2
+  (f.restrictTarget _ this inf_le_left).trans' (g.restrictSource _ this inf_le_right) rfl
+
+lemma trans_over (f : X.PartialIso Y) (g : Y.PartialIso Z) (hf : f.IsOver sX sY)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
lemma IsOver.trans {f : X.PartialIso Y} {g : Y.PartialIso Z} (hf : f.IsOver sX sY)
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 14]
```diff
@@ -0,0 +1,293 @@
...
+    (f.restrictSource U hU hU').IsOver sX sY := by
+  simp [IsOver, hf]
+
+/-- Restrict the target of a partial isomorphism to a smaller dense open. -/
+@[simps! source target iso]
+noncomputable def restrictTarget (f : X.PartialIso Y) (U : Opens Y) (hU : Dense (U : Set Y))
+    (hU' : U ≤ f.target) : X.PartialIso Y :=
+  (f.symm.restrictSource U hU hU').symm
+
+lemma restrictTarget_over (f : X.PartialIso Y) (hf : f.IsOver sX sY) (U : Opens Y)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
lemma IsOver.restrictTarget {f : X.PartialIso Y} (hf : f.IsOver sX sY) (U : Opens Y)
```

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 15]
```diff
@@ -0,0 +1,293 @@
...
+    have := Opens.isDominant_ι f.dense_target
+    f.target.ι.denseRange.dense_image f.target.ι.continuous <|
+      f.iso.hom.denseRange.dense_image f.iso.hom.continuous <|
+        hU.preimage f.source.ι.isOpenEmbedding.isOpenMap
+  iso := (Opens.isoOfLE hU').symm ≪≫
+    (f.iso.hom.isoImage (f.source.ι ⁻¹ᵁ U)) ≪≫
+    (f.target.ι.isoImage (f.iso.hom ''ᵁ f.source.ι ⁻¹ᵁ U))
+
+set_option backward.defeqAttrib.useBackward true in
+lemma restrictSource_over (f : X.PartialIso Y) (hf : f.IsOver sX sY) (U : Opens X)
```
Comment (chrisflav) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]:
```suggestion
lemma IsOver.restrictSource {f : X.PartialIso Y} (hf : f.IsOver sX sY) (U : Opens X)
```

**Review by chrisflav — APPROVED** [review]
Thanks, LGTM modulo these comments.

**Comment by chrisflav** [comment]
Thanks!
maintainer merge

**Comment by joelriou** [comment]
Could you merge again with master as there were some disrupting changes recently?

**Comment by justus-springer** [comment]
@joelriou I merged master again today, no changes were necessary. Do you think this is mergeable soon?

File: Mathlib/AlgebraicGeometry/Birational/Birational.lean [hunk 16]
```diff
@@ -0,0 +1,292 @@
...
+    (h : BirationalOver sX sY) : BirationalOver sY sX :=
+  ⟨h.partialIso.symm, h.partialIso_isOver.symm⟩
+
+lemma BirationalOver.trans {S X Y Z : Scheme.{u}} {sX : X ⟶ S} {sY : Y ⟶ S} {sZ : Z ⟶ S}
+    (h₁ : BirationalOver sX sY) (h₂ : BirationalOver sY sZ) :
+    BirationalOver sX sZ :=
+  ⟨h₁.partialIso.trans h₂.partialIso, h₁.partialIso_isOver.trans h₂.partialIso_isOver⟩
+
+/-- `X` is rational over `S` (or `S`-rational) if it is birational over `S` to some
+affine space `𝔸(n; S)`. -/
```
Comment (joelriou) [inline Mathlib/AlgebraicGeometry/Birational/Birational.lean]: Could you add a comment saying that we do not require `Finite n`?

**Comment by joelriou** [comment]
Thanks!

bors merge
